US07049342B2
Methyl 3-(3-amino-4-methoxyphenyl)propanoate
Methyl 4-methoxy-3-nitrophenylpropanoate (2.70 g, 11.3 mmol), 10% palladium on carbon (200 mg) and a mixed solvent (100 mL) of ethyl acetate with ethanol (1:1 v/v) were mixed and hydrogenation was carried at an initial pressure of 294.3 kPa. After completion of the hydrogenation, the catalyst was removed by filtration and the filtrate was concentrated to obtain 2.35 g (95%) of the title compound as a yellow oily product.

reactant | Methyl 4-methoxy-3-nitrophenylpropanoate | 11.3 mmol, 2.70 g | COC1=C(C=C(C=C1)C(C(=O)OC)C)[N+](=O)[O-] | C11H13NO5
reactant | ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
catalyst | palladium on carbon | 200 mg | [Pd] | Pd
solvent | ethanol | C(C)O | C2H6O
product | Methyl 3-(3-amino-4-methoxyphenyl)propanoate | 2.35 g, 95% | NC=1C=C(C=CC1OC)CCC(=O)OC | C11H15NO3
